US07595315B2
4-Benzyl-2-[2-Phenyl-2-(2-trifluoromethyl-phenyl)-vinyl]-morpholine
To a cooled solution of KHMDS (0.5M in toluene, 50 ml, 25 mmol) at 0° C. in dry tetrahydrofuran (70 ml) under nitrogen is added freshly prepared neat (2-trifluoromethyl-benzyl)-phosphonic acid diethyl ester (5.7 ml, 25 mmol, 1 equiv.). The reaction is warmed to room temperature over 1 hour and then racemic (4-benzyl-morpholin-2-yl)-phenyl-methanone (7 g, 25 mmol in 25 ml of dry tetrahydrofuran) is added dropwise. The reaction is left at room temperature and stirred for 2 hours. At the end of this time the reaction solvent is removed under reduced vacuum and replaced with diethyl ether prior to quenching with water. After extraction with diethyl ether and drying (MgSO4) the solvent is again removed under reduced pressure. The resulting residue is purified by column chromatography on silica gel to yield a colourless oil (6.5 g, 61%).

reactant | KHMDS | 25 mmol, 0.5M, 50 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (2-trifluoromethyl-benzyl)-phosphonic acid diethyl ester | 25 mmol, 5.7 ml, 1 equiv. | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)C(F)(F)F | C12H16F3O3P
reactant | racemic (4-benzyl-morpholin-2-yl)-phenyl-methanone | 25 mmol, 25 ml, 7 g | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)C1=CC=CC=C1 | C18H19NO2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 4-Benzyl-2-[2-Phenyl-2-(2-trifluoromethyl-phenyl)-vinyl]-morpholine | 6.5 g, 61% | C(C1=CC=CC=C1)N1CC(OCC1)C=C(C1=C(C=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C26H24F3NO
